US05720934
a. N,N'-bis-[2-(4-methoxybenzylthio)-2-methylpropyl]-ethylenediamine
A solution of N,N'-bis(2-mercapto-2-methylpropyl)ethylene diamine (11.23 g, 47.5 mmol; see, DiZio et al., 1991, Bioconjugate Chem 2:353 and Corbin et al., 1976, J. Org. Chem. 41:489) in methanol (500 mL) was cooled in ice/water bath and then saturated with gaseous ammonia over 45 min. To this was added 4-methoxybenzyl chloride (17.0 mL, 125 mmol, 264 mol %). The reaction was allowed to warm to room temperature overnight with stirring under argon. The solution was concentrated to a paste and then partitioned between diethyl ether (150 mL) and 0.5M KOH (200 mL). The aqueous layer was further extracted with diethyl ether (2x 50 mL). The combined organic layers were washed with NaCl solution and concentrated to a clear colorless oil. The oil dissolved in diethyl ether (200 mL) and then acidified with 4.0M HCl in dioxane until no further precipitation was seen. The white precipitate was collected by filtration and washed with diethyl ether. The white solid was recrystallized from hot water at a pH of ~2. The product was collected by filtration to afford 29.94 g as a mix of mono- and di- HCl salts. The HCl salts were partitioned between 1M KOH (100 mL) and ethyl acetate (100 mL). The aqueous was extracted with ethyl acetate (2x 30 mL) and the combined organic layers were washed with NaCl solution, dried with Na2SO4 and concentrated to give pure product as the free base as a light yellow oil (18.53 g, 82% yield). Nuclear magnetic resonance characterization experiments yielded the following molecular signature:

reactant | N,N'-bis(2-mercapto-2-methylpropyl)ethylene diamine | 47.5 mmol, 11.23 g | SC(CNCCNCC(C)(S)C)(C)C | C10H24N2S2
reactant | ammonia | N | H3N
reactant | 4-methoxybenzyl chloride | 125 mmol, 17.0 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | HCl | Cl | ClH
solvent | methanol | 500 mL | CO | CH4O
product | N,N'-bis-[2-(4-methoxybenzylthio)-2-methylpropyl]-ethylenediamine | 18.53 g, 82% yield | COC1=CC=C(CSC(CNCCNCC(C)(SCC2=CC=C(C=C2)OC)C)(C)C)C=C1 | C26H40N2O2S2
